US07943774B2
tert-Butyl 4-{4-[(1Z)-4-phenylpent-1-en-1-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (IV-4)
tert-Butyl 4-(4-formyl-1,3-thiazol-2-yl)piperidine-1-carboxylate (1.00 g) is reacted with triphenyl(3-phenylbutyl)phosphonium iodide (3.53 g) and purified as described in IV-3. This gives tert-butyl 4-{4-[(1Z)-4-phenylpent-1-en-1-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (1.23 g) in form of the Z isomer.

reactant | tert-Butyl 4-(4-formyl-1,3-thiazol-2-yl)piperidine-1-carboxylate | 1.00 g | C(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20N2O3S
reactant | triphenyl(3-phenylbutyl)phosphonium iodide | 3.53 g | [I-].C1(=CC=CC=C1)[P+](CCC(C)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl 4-{4-[(1Z)-4-phenylpent-1-en-1-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | C1(=CC=CC=C1)C(C\C=C/C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C24H32N2O2S
